US07557114B2
(a) 2-Trityl-2,3-dihydro-1H-isoindole-4-carbonitrile
Prepared in analogy to Example A2(b) from 2,3-Bis-bromomethyl-benzonitrile (CAS: 66126-18-9) and triphenylmethylamine. Yellow foam.

reactant | 2,3-Bis-bromomethyl-benzonitrile | BrCC1=C(C#N)C=CC=C1CBr | C9H7Br2N
reactant | triphenylmethylamine | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)N | C19H17N
product | 2-Trityl-2,3-dihydro-1H-isoindole-4-carbonitrile | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC=2C=CC=C(C2C1)C#N | C28H22N2
